US05071836
1b) H-D-Phe-Ser(tBu)-OtBu.HCl
22.0 g of Z-Phe-Ser(tBu)-OtBu are dissolved in methanol and catalytically (Pd/carbon) hydrogenated at pH 4.5 with the addition of methanolic hydrochloric acid by means of an autotitrator. After the hydrogenation is complete, the catalyst is filtered off with suction through kieselguhr, and the filtrate is concentrated. The residue is triturated with diethyl ether. The substance solidifies and can be filtered off with suction.

reactant | Z-Phe-Ser(tBu)-OtBu | 22.0 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C28H38N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | Pd carbon | [Pd].[C]
product | H-D-Phe-Ser(tBu)-OtBu.HCl | N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C.Cl | InChI=1S/C20H32N2O4.ClH/c1-19(2,3)25-13-16(18(24)26-20(4,5)6)22-17(23)15(21)12-14-10-8-7-9-11-14;/h7-11,15-16H,12-13,21H2,1-6H3,(H,22,23);1H/t15-,16+;/m1./s1
